Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Perforated appendix, COPD Exacerbation, Atrial Fibrillation with 
Rapid Ventricular Response, Pre-existing Leg Ulcers
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ year old woman with severe COPD (FEV1 1.23L in 
___, 45%), active tobacco abuse and history of DVT/PE with IVC 
filter placement as well as possible embolic CVA who was 
admitted to ___ on ___ with severe RLQ abdominal 
pain, w/ CT findings concerning for perforated appendicitis with 
fluid collection.  

Patient was initially treated w/ IV Unasyn 3g q6h and Flagyl 
500mg IV q8h (day 1= ___ and maintained on her outpatient 
antihypertensives and COPD treatment. Coumadin was held in light 
of possible surgery and pt's pain was controlled on q1h PRN 
Dilaudid. Dr ___ surgeon at ___ planned for 
percutaneous drainage without surgical intervention for 
potential developing intra-abdominal abscess. 

Patient improved on ___ hospital day (___) and had decrease in 
WBC 15-->12. INR decreased from 3 (___) to 1.8 (___). She 
tolerated clears and low fiber diet. On the night of ___, pain 
worsened- plan was for open appy in the AM of ___ however, pt 
developed severe respiratory distress around ___ that AM w/ 
hypertension (SBP 160), tachycardia (HR 160->Afib RVR) and 
tachypnea (RR 26) w/ desats to 95% on NRB. ABG at that time was 
reported as 7.21/ 56/ 93 on NRB. (no prior ABGs for comparison). 
She was treated w/ back-to-back doses of Duoneb x2, 1 dose of 
solumedrol and 750mg IV levaquin. CXR revealed bibasilar 
infiltrates and thought was aspiration when pt was vomiting 
related to appendicitis. Repeat ABG on 6L NC was 7.32/___.

She was treated w/ Unasyn, Flagyl and Levaquin (d1= ___ to 
broaden gram-negative coverage. She was transferred to ___ ICU 
due to her respiratory distress from b/l aspiration pneumonia. 

On arrival, Ms. ___ was hemodynamically stable, c/o slight 
abdominal discomfort in RLQ, denies nausea/vomiting, difficulty 
breathing, chest discomfort.
 
Past Medical History:
- Mitral regurgitation & MVP (EF 60% per TTE ___
- Paroxysmal atrial fibrillation-back on coumadin
- Hyperlipidemia
- Coronary artery disease w/ NSTEMI ___
- History of CVA in 1980s w/ L-sided hemiparesis
- DVT/PE (IVC filter placed)-coumadin was held in setting of 
stroke
- History of venous stripping on RLE in ___
- History of R carotid endarterectomy
- Hypertension
- OA
- COPD, (FEV1 1.2L, 45%)
- Right lower extremity ulcerations
- Venous insufficiency and bilateral venous stasis ulcers
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Vitals: afebrile, HR 65 BP 112/66 SaO2 94 %
GEN: comfortable, NAD 
HEENT: Sclera anicteric, MMM, oropharynx clear, poor dentition
Neck: supple, JVP not elevated, no LAD
Lungs: CTA B/L
CV: irregularly irregular rate, S1, S2 nl, no appreciable murmur
Abdomen: +BS, soft, slightly distended. Mild TTP RLQ, no 
rebound/ no guarding, no TTP LLQ, no Rovsing's sign
Ext: b/l chronic venous stasis changes, Foot ulcers w/ multiple 
guaze bandages, 1+ distal pulses, onychyomycosis
NEURO: A&Ox3
 
Pertinent Results:
___ 08:26AM BLOOD WBC-9.8 RBC-4.20 Hgb-12.8 Hct-38.9 MCV-93 
MCH-30.4 MCHC-32.8 RDW-13.6 Plt ___
___ 07:20AM BLOOD WBC-5.7 RBC-3.89* Hgb-12.1 Hct-36.0 
MCV-93 MCH-31.2 MCHC-33.7 RDW-13.3 Plt ___
___ 05:57PM BLOOD WBC-7.1 RBC-3.60* Hgb-11.2* Hct-34.9* 
MCV-97 MCH-31.0 MCHC-32.0 RDW-13.1 Plt ___
___ 04:45AM BLOOD Neuts-88.4* Lymphs-6.0* Monos-5.0 Eos-0.5 
Baso-0.1
___ 05:57PM BLOOD Neuts-92.5* Lymphs-4.9* Monos-2.3 Eos-0.1 
Baso-0.2
___ 06:35AM BLOOD ___ PTT-30.5 ___
___ 06:35AM BLOOD ___ PTT-26.6 ___
___ 05:57PM BLOOD ___ PTT-30.2 ___
___ 08:26AM BLOOD Glucose-97 UreaN-11 Creat-0.8 Na-139 
K-3.4 Cl-101 HCO3-31 AnGap-10
___ 07:20AM BLOOD Glucose-146* UreaN-18 Creat-0.7 Na-138 
K-3.6 Cl-102 HCO3-28 AnGap-12
___ 05:57PM BLOOD Glucose-134* UreaN-15 Creat-0.8 Na-139 
K-5.0 Cl-108 HCO3-21* AnGap-15
___ 04:45AM BLOOD ALT-13 AST-16 LD(LDH)-140 AlkPhos-74 
Amylase-39 TotBili-0.4
___ 05:57PM BLOOD ALT-16 AST-17 LD(LDH)-162 AlkPhos-82 
TotBili-0.4
___ 04:45AM BLOOD Lipase-28
___ 04:45AM BLOOD ___
___ 05:57PM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:26AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.9
___ 04:45AM BLOOD Albumin-2.9* Mg-1.8
___ 05:57PM BLOOD Calcium-8.1* Phos-2.6* Mg-1.8

___ 10:30 am BLOOD CULTURE      Source: Venipuncture. x2
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

CHEST (PORTABLE AP) Study Date of ___ 5:17 ___ 
Final Report 
REASON FOR EXAM: Patient with appendicitis in respiratory 
distress. Assess 
for aspiration pneumonia. Comparison is made with prior outside 
study from ___ and the same day earlier in the morning. 
Interstitial opacities are consistent with mild interstitial 
edema. Cardiac size is top normal. Bibasilar consolidations 
larger on the right side have worsened consistent with 
pneumonia. Small bilateral pleural effusions greater on the 
right side have increased from prior study. 
 

Portable TTE (Complete) Done ___ at 2:38:49 ___      FINAL  

GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
Suboptimal image quality - body habitus.  
Conclusions  
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild to 
moderate (___) mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is an 
anterior space which most likely represents a prominent fat pad.
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved global biventricular 
systolic function. Mild-moderate mitral regurgitation. 
 

CT PELVIS W/CONTRAST Study Date of ___ 4:35 ___ 
IMPRESSION: 
1. Interval improvement in the inflammatory change in the right 
lower 
quadrant with development of a cystic lesion at the base of the 
cecum which is likely an evolving abscess within the cecal wall, 
now 2.5 cm. There is no drainable fluid collection seen. 
2. 1.5 cm enhancing mass lower pole right kidney suspicious for 
renal cell 
carcinoma. 
3. New bilateral pleural effusions as well as free fluid in the 
abdomen, 
retroperitoneum, and diffuse subcutaneous edema consistent with 
diffuse third spacing.  
 

CHEST (PORTABLE AP) Study Date of ___ 6:13 ___  
FINDINGS: Comparison is made to previous study from ___.
There is again seen small bilateral pleural effusions. There is 
bibasilar 
consolidation, however, they have improved since the previous 
study. The 
degree of interstitial edema has also improved as well since the 
prior study. 
 

ART EXT (REST ONLY) Study Date of ___ 1:14 ___ 
Final Report 
ARTERIAL STUDY  
HISTORY: Nonhealing ulcer (side of symptoms not stated). The ABI 
on the 
right is 0.92 and on the left is 1.02. Doppler tracings are 
triphasic 
diffusely on the right except at the DP level and diffusely 
triphasic on the left except at both the ___ and DP levels. The 
volume recordings are in accord with the Doppler tracings. 
IMPRESSION: Findings as stated above which indicate bilateral 
tibial disease, left to a greater extent than the right. The 
relatively high ABI measurements on the left in light of 
monophasic waveforms suggest some vessel non-compressibility. 
 

 
Brief Hospital Course:
1. Acute Appendicitis
- The patient was ultimately determined to not need acute 
surgery, and instead will be treated with antibiotics with a 
"cool off" period. She was initially treated with vancomycin and 
zosyn, which was changed over to cipro/flagyl for a 14 day 
course.
- Surgery was consulted, and the patient will be following up 
with Dr. ___ in the future for ultimate surgical therapy.
- The patient was afebrile, with mild residual RLQ abdominal 
pain at time of discharge. She was tolerating a full diet.

2. Atrial Fibrillation with Rapid Ventricular Response, Acute 
Diastolic CHF
- The patient was transitioned to diltiazem for better rate 
control
- Her heart failure resolved with appropriate rate control
- Telemetry was monitored with no further events

3. Probable Malignant Neoplasm - Kidney
- Incidental finding on imaging as above
- Patient urgently referred to Dr. ___ clinic for 
evaluation. Letter placed in OMR to PCP and Dr. ___ 
___ informed.

4. COPD with Acute Exacerbation, Bacterial Pneumonia
- Cipro/flagyl will cover
- Patient was breathing normally at time of discharge
- Advair

5. CAD Native Vessle, Stroke Prior with late effects, History of 
Deep Venous Thrombosis/Pulmonary Embolism
- Aspirin and coumadin initially held, but this was restarted 
after surgery was determined ot not be needed
- Rate controlled

6. Chronic Foot Ulcers (preexisting)
- ABI were performed as above
- Wound care consultation was obtained
- F/U with PCP (letter sent with results)
 
Medications on Admission:
ASA 81
toprol 25mg bid-takes only once a day because makes her tired
simva 10
coumadin 2mg q day
xopenex 2 puffs q4prn
Ca +Vit D BID
Vit D qd
mag ox 400mg qd
Zinc 30mg qd
MVI
no other inhalers

 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*60 Disk with Device(s)* Refills:*0*
3. Xopenex HFA 45 mcg/Actuation HFA Aerosol Inhaler Sig: Two (2) 
 Inhalation 2 puffs every ___ hours () as needed for as needed 
for SOB.  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
Disp:*30 Cap(s)* Refills:*1*
6. Diltiazem HCl 120 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).
Disp:*30 Capsule, Sustained Release(s)* Refills:*2*
7. Petrolatum     Ointment Sig: One (1) Appl Topical TID (3 
times a day) as needed for venous stasis bilateral ___.  
8. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Coumadin 5 mg Tablet Sig: One (1) Tablet PO once a day: 
resume your prior dose.  
10. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 11 days.
Disp:*22 Tablet(s)* Refills:*0*
11. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 11 days.
Disp:*2 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute appendicitis with perforation
afib RVR
acute diastolic CHF
Acute aspiration pneumonia
COPD exacerbation
nonhealing ___ ulcers
h/o CVA, embolic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to ___ with acute appendicitis. There you 
had difficulty breathing from your COPD, and pneumonia, and your 
rapid heart rate and were transfered to ___.

Here you improved with antibiotics for your pneumonia and your 
appendicitis. You were followed by surgeons who reviewed your 
repeat CT scan and did not feel there was a need for urgent 
drainage or surgery. You tolerated food well after this.
 
your breathing was stable on the inhalers. You are started on 
advair and spiriva to help with you COPD. Please try to stop 
smoking. 
you have bad leg ulcers. You have some arterial blockages in 
your legs, and you should follow up with your PCP on this.

Your heart rate was fast due to atrial fibrillation. Your toprol 
was not covering this well at the doses you were taking. You 
said higher doses make you tired and they can worsen your COPD. 
Thus you are switched to a new medication called diltiazem for 
this. Your coumadin and aspirin were initially held because we 
were planning surgery. however, these have now been started. 
Please resume your prior arrangement to monitor your coumadin 
levels and dosing. 

You will still require surgery, but Dr. ___ will arrange 
this.

Flagyl:
You are being discharged on an antibiotic called Metronidazole 
(Flagyl). This medication interacts very seriously with even 
tiny quantities of alcohol. You should not drink or eat any food 
with ANY alcohol in it or uncontrollable vomiting will result. 
If you use mouthwash that contains alcohol do not use it while 
on this medication. This medication can also make you sun 
sensitive, so you should avoid direct sun if possible, or use 
high SPF+ sunblock even if dark skinned. Finish all this 
medication even if you feel better.

Cipro:
You are being discharged on an antibiotic called Ciprofloxacin. 
This
medication can weaken your tendons while taking it, so you 
should avoid strenuous sports or activities. If you feel 
palpitations in your heart, contact your doctor or go to the 
Emergency Room. Finish all this medication even if you feel 
better.
 
Followup Instructions:
___